US07935703B2
2-(4-Fluoro-benzyloxy)-propionic acid
To a round bottom flask equipped with stir bar was added 2-(4-fluoro-benzyloxy)-propionic acid ethyl ester (0.380 g, 1.68 mmol), dioxane (6 mL) and 1N aqueous sodium hydroxide (1.76 mL, 1.76 mmol). The resulting mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo. The isolated residue was treated with 2N aqueous hydrochloric acid (10 mL) then extracted with dichloromethane (4×20 mL). The combined organic phase was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to isolate desired product as clear oil (328 mg, 99%). Isolated material was used as such in the next step. 1 NMR (300 MHz, CDCl3): δ 11.5 (br, 1H), 7.35 (m, 2H), 7.03 (m, 2H), 4.65 (d, 1H), 4.48 (d, 1H), 4.10 (q, 1H), 1.50 (d, 3H)

reactant | 2-(4-fluoro-benzyloxy)-propionic acid ethyl ester | 1.68 mmol, 0.380 g | C(C)OC(C(C)OCC1=CC=C(C=C1)F)=O | C12H15FO3
reactant | sodium hydroxide | 1.76 mmol, 1N, 1.76 mL | [OH-].[Na+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 2-(4-Fluoro-benzyloxy)-propionic acid | 328 mg, 99% | FC1=CC=C(COC(C(=O)O)C)C=C1 | C10H11FO3
